US05910506
Synthesis of 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(6-phenylhexyl)-1H-imidazole (Compound I-125)
To dimethylformamide was added 99 mg of 1-chloro-6-phenylhexane and 152 mg of potassium iodide under ice-cooling, the mixture was allowed to warm up to room temperature and stirred for 20 minutes. Then, 200 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole (101b)was added, followed by addition of 126 mg of potassium carbonate. Then, the mixture was warmed up to 50° C. and allowed to react for 6 hours. After completion of the reaction, the mixture was diluted with water, extracted with diethyl ether, the extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. To thus-obtained oil were added 10 ml of ethanol and 20 ml of 36% hydrochloric acid, and the mixture was stirred at 90° C. for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, an aqueous sodium hydrogen carbonate solution was added, and extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1)to give 81 mg of Compound I-125 (yield 37%).

reactant | 1-chloro-6-phenylhexane | 99 mg | ClCCCCCCC1=CC=CC=C1 | C12H17Cl
reactant | potassium iodide | 152 mg | [I-].[K+]
reactant | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole | 200 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1)COCC1=CC=C(C=C1)OC)C(C)C | C21H22Cl2N2O2S
reactant | potassium carbonate | 126 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(6-phenylhexyl)-1H-imidazole | 81 mg, yield 37% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CCCCCCC1=CC=CC=C1)CO)C(C)C | C25H30Cl2N2OS
